US04093447
Preparation of Methyl-N-(2,4-dichlorophenoxymethyl)-N-(4-chlorophenyl)-carbamate
A solution of 16.3 g (0.1 mole) of 2,4-dichlorophenol and 14 ml (0.1 mole) of triethylamine in 100 ml of benzene was added dropwise, over the course of 15 minutes, to a solution of 23.4 g (0.1 mole) of Methyl-N-chloromethyl-N-(4-chlorophenyl)-carbamate in 200 ml of dry benzene. Thereafter the triethylamine hydrochloride was filtered off, the filtrate was washed with 5% strength sodium hydroxide solution and water, and after drying over calcined sodium sulphate the benzene was distilled off under reduced pressure. 52.4 g (92% of theory) of Methyl-N-(2,4-dichlorophenoxymethyl)-N-(4-chlorophenyl)-carbamate, melting at 70° - 80° C after recrystallization from ethanol, were obtained.

reactant | 2,4-dichlorophenol | 0.1 mole, 16.3 g | ClC1=C(C=CC(=C1)Cl)O | C6H4Cl2O
reactant | triethylamine | 0.1 mole, 14 ml | C(C)N(CC)CC | C6H15N
reactant | Methyl-N-chloromethyl-N-(4-chlorophenyl)-carbamate | 0.1 mole, 23.4 g | COC(N(C1=CC=C(C=C1)Cl)CCl)=O | C9H9Cl2NO2
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | Methyl-N-(2,4-dichlorophenoxymethyl)-N-(4-chlorophenyl)-carbamate | COC(N(C1=CC=C(C=C1)Cl)COC1=C(C=C(C=C1)Cl)Cl)=O | C15H12Cl3NO3
